US08541575B2
N-[2,4-difluoro-3-(1H-pyrazol-3-yl)-phenyl]-2,5-difluoro-N-(2-methoxyethoxy-methyl)-benzenesulfonamide (1.27 g, 2.76 mmol) was dissolved in dry DCM (10 mL). N-bromosuccinimide was then added (737 mg, 4.14 mmol, 1.5.eq) and the reaction was stirred at room temperature for 3 hours. The reaction mixture was then diluted with DCM and washed with 10% aqueous NaHSO3 and brine. The organic phase was dried over Na2SO4 and evaporated to dryness. The desired N-[3-(4-bromo-1H-pyrazol-3-yl)-2,4-difluoro-phenyl]-2,5-difluoro-N-(2-methoxyethoxymethyl)-benzenesulfonamide was isolated from the crude mixture by chromatography on silica gel (DCM/MeOH 95:5) obtaining 584 mg (39%) of off-white solid.

reactant | N-[2,4-difluoro-3-(1H-pyrazol-3-yl)-phenyl]-2,5-difluoro-N-(2-methoxyethoxy-methyl)-benzenesulfonamide | 2.76 mmol, 1.27 g | FC1=C(C=CC(=C1C1=NNC=C1)F)N(S(=O)(=O)C1=C(C=CC(=C1)F)F)COCCOC | C19H17F4N3O4S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-bromo-1H-pyrazol-3-yl)-2,4-difluoro-phenyl]-2,5-difluoro-N-(2-methoxyethoxymethyl)-benzenesulfonamide | BrC=1C(=NNC1)C=1C(=C(C=CC1F)N(S(=O)(=O)C1=C(C=CC(=C1)F)F)COCCOC)F | C19H16BrF4N3O4S
